US08105662B2
A mixture of 2-[(6-bromohexanoyl)oxy]propyl acrylate (4.15 g), 4-[(4-hydroxybenzoyl)oxy]-2-methylphenyl 4-hydroxybenzoate (2.24 g) and K2CO3 (2.55 g) in 2-butanone (40 ml) was heated at 100° C. overnight. The reaction mixture was poured into HCl 1N (50 ml) and extracted twice with 80 ml of diethylether. The etheral extracts were dried over Na2SO4 and evaporated to dryness. The obtained pasty residue was purified by silica column chromatography to give nearly pure 4-{[4-({6-[2-(acryloyloxy)-1-methylethoxy]-6-oxohexyl}oxy)benzoyl]oxy}-2-methylphenyl 4-({6-[2-(acryloyloxy)-1-methylethoxy]-6-oxohexyl}oxy)benzoate as slightly yellow oil.

reactant | 2-[(6-bromohexanoyl)oxy]propyl acrylate | 4.15 g | C(C=C)(=O)OCC(C)OC(CCCCCBr)=O | C12H19BrO4
reactant | 4-[(4-hydroxybenzoyl)oxy]-2-methylphenyl 4-hydroxybenzoate | 2.24 g | OC1=CC=C(C(=O)OC2=C(C=C(C=C2)OC(C2=CC=C(C=C2)O)=O)C)C=C1 | C21H16O6
reactant | K2CO3 | 2.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N, 50 ml | Cl | ClH
solvent | 2-butanone | 40 ml | CC(CC)=O | C4H8O
product | 4-{[4-({6-[2-(acryloyloxy)-1-methylethoxy]-6-oxohexyl}oxy)benzoyl]oxy}-2-methylphenyl 4-({6-[2-(acryloyloxy)-1-methylethoxy]-6-oxohexyl}oxy)benzoate | C(C=C)(=O)OCC(OC(CCCCCOC1=CC=C(C(=O)OC2=C(C=C(C=C2)OC(C2=CC=C(C=C2)OCCCCCC(=O)OC(COC(C=C)=O)C)=O)C)C=C1)=O)C | C45H52O14
